US05391553
9-Benzylamino-7-decyl-1,2,3,4-tetrahydroacridine hydrochloride
9-Chloro-7-decyl-1,2,3,4-tetrahydroacridine hydrochloride (5.0 g) was dissolved in 50 ml of phenol and heated at 150° C. with 3.50 g of benzylamine. After 2 hours at this temperature the reaction mixture was poured into 10% NaOH and extracted with Et2O. The organic phase was separated, washed with water and treated with 5% HCl. The insoluble hydrochloride was filtered off and recrystallized from MeOH/Et2O to give 2.59 g of product, m.p. 215° C.

reactant | 9-Chloro-7-decyl-1,2,3,4-tetrahydroacridine hydrochloride | 5.0 g | Cl.ClC=1C2=CC(=CC=C2N=C2CCCCC12)CCCCCCCCCC
reactant | benzylamine | 3.50 g | C(C1=CC=CC=C1)N | C7H9N
reactant | NaOH | [OH-].[Na+]
solvent | phenol | 50 ml | C1(=CC=CC=C1)O | C6H6O
product | 9-Benzylamino-7-decyl-1,2,3,4-tetrahydroacridine hydrochloride | 2.59 g | Cl.C(C1=CC=CC=C1)NC=1C2=CC(=CC=C2N=C2CCCCC12)CCCCCCCCCC | InChI=1S/C30H40N2.ClH/c1-2-3-4-5-6-7-8-10-15-24-20-21-29-27(22-24)30(26-18-13-14-19-28(26)32-29)31-23-25-16-11-9-12-17-25;/h9,11-12,16-17,20-22H,2-8,10,13-15,18-19,23H2,1H3,(H,31,32);1H
